US08252935B2
a) 1-(4-Trifluoromethyl-phenyl)-propan-1-ol
To 4-trifluoromethylpropiophenone (1.0 g, 5.0 mmol) in MeOH (25 mL, 0.20 M), was added NaBH4 (187 mg, 5,0 mmol). After 3 hours at RT, the reaction was concentrated in vacuo, partitioned between H2O and CH2Cl2, dried, filtered and concentrated to give the title compound as a white solid (0.97 g, 96%). 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 0.93 (t, J=7.54 Hz, 3 H) 1.71-1.85 (m, 2 H) 1.85-1.92 (m, 1 H) 4.69 (td, J=6.41, 3.39 Hz, 1 H) 7.44-7.50 (m, 2 H) 7.61 (d, J=8.29 Hz, 2 H).

reactant | 4-trifluoromethylpropiophenone | 5.0 mmol, 1.0 g | CCC(=O)C1=CC=C(C=C1)C(F)(F)F | C10H9F3O
reactant | NaBH4 | 5,0 mmol, 187 mg | [BH4-].[Na+]
solvent | MeOH | 0.20 M, 25 mL | CO | CH4O
product | 1-(4-Trifluoromethyl-phenyl)-propan-1-ol | 0.97 g, 96% | FC(C1=CC=C(C=C1)C(CC)O)(F)F | C10H11F3O
